US08048909B2
Ethyl 1-[(3-chlorophenyl)sulfonyl]-2-methyl-5-phenyl-1H-pyrrole-3-carboxylate
Using ethyl 2-methyl-5-phenyl-1H-pyrrole-3-carboxylate (1.53 g), sodium hydride (60% in oil, 303 mg) and 3-chlorobenzenesulfonyl chloride (848 mg), a procedure as in Reference Example 41 was performed to give the title compound as a brown oil (yield 800 mg, 30%).

reactant | ethyl 2-methyl-5-phenyl-1H-pyrrole-3-carboxylate | 1.53 g | CC=1NC(=CC1C(=O)OCC)C1=CC=CC=C1 | C14H15NO2
reactant | sodium hydride | 303 mg | [H-].[Na+]
reactant | 3-chlorobenzenesulfonyl chloride | 848 mg | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
product | Ethyl 1-[(3-chlorophenyl)sulfonyl]-2-methyl-5-phenyl-1H-pyrrole-3-carboxylate | yield 800 mg, 30% | ClC=1C=C(C=CC1)S(=O)(=O)N1C(=C(C=C1C1=CC=CC=C1)C(=O)OCC)C | C20H18ClNO4S
